US07456164B2
4-{4-[4-(3-Pyrrolidin-1-yl-propoxy)-phenyl]-tetrahydro-pyran-4-ylmethyl}-thiomorpholine
4-[4-(3-Pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-carbaldehyde (1.5 g, 4.726 mmol, 1 wt), thiomorpholine (930 mg, 9.027 mmol), absolute ethanol (60 ml), activated 3 Å molecular sieves (1.5 g), titanium (IV) isopropoxide (6.97 ml, 23.630 mmol) and STAB (8.51 g, 40.15 mmol) were reacted in accordance with the general procedure D. The isolated waxy solid was purified by column chromatography on silica eluting with DCM(95):MeOH(4):NH3(I) to give the title compound as a pale yellow oil (1.06 g, 55%). 1H NMR (400 MHz, CDCl3) δ7.20 (d, 2H), 6.86 (d, 2H), 4.02 (t, 2H), 3.75 (dt, 2H), 3.57-3.45 (m, 2H), 2.63 (t, 2H), 2.59-2.39 (m, 12H), 2.36 (s, 2H), 2.14-1.95 (m, 4H), 1.92-1.73 (m, 6H).

reactant | 4-[4-(3-Pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-carbaldehyde | 4.726 mmol, 1.5 g | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)C=O | C19H27NO3
reactant | thiomorpholine | 9.027 mmol, 930 mg | N1CCSCC1 | C4H9NS
catalyst | titanium (IV) isopropoxide | 23.630 mmol, 6.97 ml | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 4-{4-[4-(3-Pyrrolidin-1-yl-propoxy)-phenyl]-tetrahydro-pyran-4-ylmethyl}-thiomorpholine | 1.06 g, 55% | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)CN1CCSCC1 | C23H36N2O2S
